US05633270
The procedure is similar to that described in Example 1A, but starting with 1.2 g of tert-butyl (4R)-3-(2-aminoacetyl)-2-butyl-4-thiazolidinecarboxylate (isomer A) and 0.53 g of 3-methylphenyl isocyanate. The crude product is purified by chromatography on silica [eluent: diisopropyl ether/ethyl acetate (95:5 by volume)]. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure at 40° C. 0.8 g of tert-butyl (4R)-3-{2-[3-(3-methylphenyl)-ureido]acetyl}-2-butyl-4-thiazolidinecarboxylate (isomer A) is thereby obtained in the form of an amorphous product; [α]D25 =-39°±1° (C %=0.53; DMF).

reactant | tert-butyl (4R)-3-(2-aminoacetyl)-2-butyl-4-thiazolidinecarboxylate | 1.2 g | NCC(=O)N1C(SC[C@H]1C(=O)OC(C)(C)C)CCCC | C14H26N2O3S
reactant | 3-methylphenyl isocyanate | 0.53 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl (4R)-3-{2-[3-(3-methylphenyl)-ureido]acetyl}-2-butyl-4-thiazolidinecarboxylate | 0.8 g | CC=1C=C(C=CC1)NC(NCC(=O)N1C(SC[C@H]1C(=O)OC(C)(C)C)CCCC)=O | C22H33N3O4S
